US06087380
b) 1,5-Dimethyl-2-[(4-cyanophenyl)oxymethyl]-imidazo[4,5-b]-pyridine
11.4 g (63 mMol) of 4-cyano-phenoxyacetic acid were dissolved in 200 ml of absolute tetrahydrofuran and mixed at room temperature with 10.2 g (63 mMol) of N,N'-carbonyldiimidazole. After 15 minutes at 60° C., 5.70 g (41.5 mMol) of 2-amino-3-methylamino-6-methyl-pyridine were added. After 2 hours at 60° C. the solvent was distilled off and the crystalline residue was mixed with water, washed with water and dried. After crystallisation from ethanol 9.95 g (91% of theory) were obtained in the form of white crystals. C16H14N4O (278.32) Mass spectrum: M+ =278

reactant | 4-cyano-phenoxyacetic acid | 63 mMol, 11.4 g | C(#N)C1=CC=C(OCC(=O)O)C=C1 | C9H7NO3
reactant | 2-amino-3-methylamino-6-methyl-pyridine | 41.5 mMol, 5.70 g | NC1=NC(=CC=C1NC)C | C7H11N3
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 1,5-Dimethyl-2-[(4-cyanophenyl)oxymethyl]-imidazo[4,5-b]-pyridine | CN1C(=NC2=NC(=CC=C21)C)COC2=CC=C(C=C2)C#N | C16H14N4O
